US08193228B2
Pd2 dba3 (2.2 g, 2.4 mmol) was added to a degassed, ambient temperature solution of 4-chloro-2,5-difluoroacetophenone (9.05 g, 48 mmol), bis(pinacolato)diboron (19 g, 75 mmol) and potassium acetate (11.67 g, 119 mmol) in 1,4-dioxane (100 mL). After heating at 100° C. for 18 hours, the reaction mixture was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic phase was dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded 1-[2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone.

reactant | 4-chloro-2,5-difluoroacetophenone | 48 mmol, 9.05 g | CC(=O)C1=CC(=C(C=C1F)Cl)F | C8H5ClF2O
reactant | bis(pinacolato)diboron | 75 mmol, 19 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 119 mmol, 11.67 g | C(C)(=O)[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 2.4 mmol, 2.2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | FC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F)C(C)=O | C14H17BF2O3
